US07432275B2
4. 5-(4Trifluoromethyl-phenylamino)-2-(3-trifluoromethyl-pyridin-2-yl)-[1,6]napthyridine-7-carboxylic acid ethyl ester
Dissolve 3-(5-cyano-3′-trifluoromethyl-[2,2′]bipyridinyl-6-yl)-2-oxo-propionic acid ethyl ester (70 mg, 0.193 mmol) and 4-trifluoromethyl aniline (31 mg, 0.193 mmol) in AcOH (1 mL). Heat the mixture at 100° C. for 1.5 hours. Cool the mixture in ice and add H2O (5 mL). Extract three times with EtOAC (3×10 mL). Combine the organic extracts and wash with 1 N NaOH (30 mL) and brine (30 mL). Dry the organic extract over Na2SO4 and remove the solvent under reduced pressure. Purify the crude product using silica gel chromatography eluting with hexane/acetone (3:1) to yield the title compound. MS 507.15 (M+1)

reactant | 3-(5-cyano-3′-trifluoromethyl-[2,2′]bipyridinyl-6-yl)-2-oxo-propionic acid ethyl ester | 0.193 mmol, 70 mg | C(C)OC(C(CC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N)=O)=O | C17H12F3N3O3
reactant | 4-trifluoromethyl aniline | 0.193 mmol, 31 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | H2O | 5 mL | O | H2O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 5-(4Trifluoromethyl-phenylamino)-2-(3-trifluoromethyl-pyridin-2-yl)-[1,6]napthyridine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=C2C=CC(=NC2=C1)C1=NC=CC=C1C(F)(F)F)NC1=CC=C(C=C1)C(F)(F)F | C24H16F6N4O2
